US06635645B1
7.1. 3-Bromo-6-phenylpyridine
10 g (42.2 mmol) of 2,5-dibromopyridine, 5.2 g (42.2 mmol) of phenylboronic acid and 30 ml of benzene are placed in a 250 ml three-necked round-bottomed flask, 1.5 g (1.3 mmol) of tetrakis(triphenylphosphine)palladium, 30 ml of benzene and 30 ml of aqueous 2 M sodium carbonate solution and 1.4 ml of ethanol are added and the mixture is refluxed for 17 h.

reactant | 2,5-dibromopyridine | 42.2 mmol, 10 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | phenylboronic acid | 42.2 mmol, 5.2 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 1.3 mmol, 1.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 1.4 ml | C(C)O | C2H6O
product | 3-Bromo-6-phenylpyridine | BrC=1C=NC(=CC1)C1=CC=CC=C1 | C11H8BrN
